Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
planned hysterectomy
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy, left salpingectomy and 
cystoscopy for symptomatic fibroid uterus

 
History of Present Illness:
pt here for pre- op for planned hysterctomy. States no change 
with her symptoms, continues to have pelvic pressure and pain on 
a daily basis. Was seen at pre-op testing and by Dr ___.  On 
thyroid medication now. ___ diagnosed with fibroids in CV. ___ 
notes heavy periods, lasting 8 days.  At 24, had a laparotomy 
for cyst, and appendectomy. Not sexually active. Denies  any IM 
bleeding. ___   was seen in the CV and told to have a hysterctomy 
for the fibroids. No bowel or bladder symptoms. 
 
Past Medical History:
GYNECOLOGIC HISTORY
 
Menstrual History
Menses ___ years x q 1 monthsx 8 days , clots, no metrorraghia, 
no
post coital bleeding, absent dyspareunia, dysmenorrhea, change:
much heavier over the years.
 
Preventative Maintenance
Last pap: ___. Result: Normal. 
History of abnormal Paps: No. 
 
Infection/STI history: None. 
 
Contraception: Nothing. 
 
PAST MEDICAL HISTORY: 
  1. Diabetes. 
  2. High cholesterol. 
  3. Hypertension. 
  4. Hypothyroidism. 
 
PAST SURGICAL HISTORY 
  1. None. 
  2. Appendectomy. 
  3. Cystectomy. 
 
OBSTETRICAL HISTORY
1. ___   SVD       
2. ___   SVD            

 
 
Social History:
Country of Origin:  ___                                  
Marital status:     Single                                      
Children:           Yes: son and dtr                            
Lives with:         Children                                    
Work: ___
Sexual activity:    Denies                                      
Domestic violence:  Denies                                      
Tobacco use:        Never smoker                                
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities: walked in ___, unfamiliar
                    with streets here                           
Seat belt/vehicle   Always                                      
restraint use:                                                  
Bike helmet use:    N/A       
 
Family History:
Mother    ___      STROKE                                  
                        HYPERTENSION                            

Father    ___      HEPATITIS C                             
                        LIVER FAILURE                           

Comments: HTN and DM in multiple members of the family          
 
 
Physical Exam:
BP: 102/66. Weight: 197 (With Clothes; With Shoes). BMI: 34.1.
 
PHYSICAL EXAMINATION
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline, Thyroid normal size,
non-tender, no masses or nodules. 
Nodes: No clavicular/cervical adenopathy, No inguinal 
adenopathy.

Skin: No atypical lesions. 
Heart: Regular rate and rhythm, No edema or varicosities. 
Lungs: Clear, Normal respiratory effort. 
Breasts: Symm. Left: NT, no masses, no discharge, no node, no
inversion. Right: NT, no masses, no discharge, no nodes, no
inversion. 
Abdomen: Non tender, Non distended, No masses, No guarding or
rebound, No hepatosplenomegally, No hernia, *Findings: Large RLQ
surgical scar, large midling lower abdominal vertical scar. 
Vulva: Nl hair pattern, no lesions. 
Bus: Urethra NT, no masses, skein & bartholin glands normal,
Urethra meatus central, no prolapse. 
Vagina: No lesions, well supported, Cystocel absent, Rectocel
absent, Bladder non-tender, no masses appreciated. 
Cervix: No CMT, no lesions, no discharge. 
Uterus: NT, Prolapse absent, *Findings: 15 cm size, mobile, NT,
feels to have fundal fibroid. 
Adnexa: Small, non-tender, no masses or nodules. 
Rectal: Nl anus & perineum, No hemorrhoids, Nl NT, no masses. 
 
poor dentition, missing teeth
 
OFFICE TESTS 
  Wet Prep: pH: >4.5,  + amine. 
    Epithelial cells: Clue cells. 
    WBC/HPF: 2. 
    Background: Reduced lactobacilli. 
    Trich: Absent. 
 
 
Pertinent Results:
___ 
WBC 7.7 
RBC 4.38
HGB 11.1
HCT 36.1
MCV 82
MCH 25.4
MCHC 30.8
RDW 14.4
PLT Count 368 
UreaN 11
Creat 0.7
Na 138
K 4.4
Cl 101
HCO3 26
ALT 30
AST 23
AlkPhos 67
Cholest 163
Triglyc 206
HDL 35
CHOL/HD 4.7
LDL calc 87

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing total Laparoscopic hysterectomy, left 
salpingectomy and cystoscopy for symptomatic fibroid uterus. 
Please see the operative report for full details.
  
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to motrin 
and percocet.

By the end of post-operative day 1, she was tolerating a regular 
diet, voiding spontaneously, ambulating independently, and pain 
was controlled with oral medications.She was then discharged 
home in stable condition with outpatient follow-up scheduled.  
  
 
Medications on Admission:
clotrimazole
glipizide
ibuprofen
levothyroxine
lisinopril
metformin [Glucophage]
oxycodone
aspirin
blood sugar diagnostic [FreeStyle Lite Strips]
docusate sodium [Colace]
lancets [FreeStyle Lancets]
 
Discharge Medications:
1. GlipiZIDE 10 mg PO BID 
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1
3. Levothyroxine Sodium 112 mcg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. MetFORMIN (Glucophage) 850 mg PO TID 
6. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*50 Tablet Refills:*0
7. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Total Laparoscopic hysterectomy, left salpingectomy and cysto 
for symptomatic fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ ,
You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
* If you have staples, they will be removed at your follow-up 
visit.
 
Followup Instructions:
___